US06613790B2
N-ethyl-4-(5-methyl-3-phenylisoxazol-4-yl)benzenesulfonamide (5.0 g) and propionic anhydride (20 mL) were added together and heated to 50° C. at which point 20 μL of sulfuric acid was added. The temperature of the mixture was then increased to 80° C. and stirred for 15 minutes. The mixture was then cooled to 50° C. at a rate of 0.3° C./minute. If crystallization did not occur, then the mixture was cooled until crystallization was observed. The mixture was then held at 50° C. for 30 minutes followed by cooling to 0° C. at a rate of 0.3° C./minute. The mixture was held at 0° C. for about 30 minutes, filtered, washed with 10 mL MTBE at room temperature and vacuum dried for about 5 minutes. The washing procedure was repeated once again, and the product was then vacuum dried overnight at room temperature to provide N-ethyl-4-(5-methyl-3-phenylisoxazol-4-yl)-N-propionylbenzenesulfonamide (4.7 g).

reactant | N-ethyl-4-(5-methyl-3-phenylisoxazol-4-yl)benzenesulfonamide | 5.0 g | C(C)NS(=O)(=O)C1=CC=C(C=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C18H18N2O3S
reactant | propionic anhydride | 20 mL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | sulfuric acid | 20 μL | S(O)(O)(=O)=O | H2O4S
product | N-ethyl-4-(5-methyl-3-phenylisoxazol-4-yl)-N-propionylbenzenesulfonamide | 4.7 g | C(C)N(S(=O)(=O)C1=CC=C(C=C1)C=1C(=NOC1C)C1=CC=CC=C1)C(CC)=O | C21H22N2O4S
